US04128658
2-[[[5-(Dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine (2.14 g) and isopropylisocyanate (0.89 g) were dissolved in acetonitrile and allowed to stand overnight. Solvents were removed and the residue recrystallised from methanol:ether to give N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl-N'-(1-methylethyl)urea as crystals m.p. 65°-67° (2.8 g).

reactant | 2-[[[5-(Dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine | 2.14 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | isopropylisocyanate | 0.89 g | C(C)(C)N=C=O | C4H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl-N'-(1-methylethyl)urea | 2.8 g | CN(C)CC1=CC=C(O1)CSCCNC(=O)NC(C)C | C14H25N3O2S
